US08492372B2
7-BROMO-2-(BROMOMETHYL)-6-FLUORO-4H-1,3-BENZODIOXINE
Preparation according to Preparation 9. 5-bromo-4-fluoro-2-(hydroxymethyl)phenol (2.3 g, 10.4 mmol), 2-bromo-1,1-dimethoxyethane (9.9 ml, 83 mmol), dry THF (30 ml) and concentrated H2SO4 (4 ml) were heated at 55° C. for 2 h. Purification by flash column chromatography (isooctane/EtOAc 10:1) gave the title compound (1.55 g). MS m/z (rel. intensity, 70 eV) 328 (M+, 11), 326 (M+, 23), 324 (M+, 12) 204 (98), 202 (bp), 176 (41), 174 (43), 95 (59).

reactant | 5-bromo-4-fluoro-2-(hydroxymethyl)phenol | 10.4 mmol, 2.3 g | BrC=1C(=CC(=C(C1)O)CO)F | C7H6BrFO2
reactant | 2-bromo-1,1-dimethoxyethane | 83 mmol, 9.9 ml | BrCC(OC)OC | C4H9BrO2
reactant | H2SO4 | 4 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-BROMO-2-(BROMOMETHYL)-6-FLUORO-4H-1,3-BENZODIOXINE | 1.55 g | BrC=1C(=CC2=C(OC(OC2)CBr)C1)F | C9H7Br2FO2
